US08309580B2
3-[{4-[(5-tert-butyl-2-methyl-3-furyl)(cyclohexyl)methoxy]benzoyl}(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-[(5-tert-butyl-2-methyl-3-furyl)(cyclohexyl)methoxy]benzoic acid (111 mg) as well as ethyl 3-(methylamino)propanoate (47 mg) to give the title compound (110 mg, 81%) as an amorphous compound.

reactant | 4-[(5-tert-butyl-2-methyl-3-furyl)(cyclohexyl)methoxy]benzoic acid | 111 mg | C(C)(C)(C)C1=CC(=C(O1)C)C(OC1=CC=C(C(=O)O)C=C1)C1CCCCC1 | C23H30O4
reactant | ethyl 3-(methylamino)propanoate | 47 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[{4-[(5-tert-butyl-2-methyl-3-furyl)(cyclohexyl)methoxy]benzoyl}(methyl)amino]propanoic acid | 110 mg, 81% | C(C)(C)(C)C1=CC(=C(O1)C)C(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1CCCCC1 | C27H37NO5
